US04091105
A solution of 16 g. of N-t-butoxycarbonyl-N-methyl hydroxylamine and 23.8 g. of mesitylenesulfonyl chloride in 400 ml. of ether was cooled to 0° C. and treated with 15.4 ml. of triethylamine dropwise with stirring. Thirty minutes after the addition was complete, the mixture was filtered, and the filter cake was washed with 2 portions of ether. The filtrate and washings were evaporated to a heavy oil. The oil was dissolved in 40 ml. of benzene, filtered through diatomaceous earth and concentrated to dryness to give a crystalline residue of N-t-butoxycarbonyl-N-methyl mesitylenesulfonylhydroxylamine, which was used directly in the next step without characterization.

reactant | N-t-butoxycarbonyl-N-methyl hydroxylamine | C(C)(C)(C)OC(=O)N(O)C | C6H13NO3
reactant | mesitylenesulfonyl chloride | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-t-butoxycarbonyl-N-methyl mesitylenesulfonylhydroxylamine | C(C)(C)(C)OC(=O)N(OS(=O)(=O)C1=C(C=C(C=C1C)C)C)C | C15H23NO5S
